US06369110B1
A mixture of ethyl 5-methyl-5-phenylpentanoate (16.0 g, 72.6 mmol), a 30% aqueous sulfuric acid solution and acetic acid (250 ml) was stirred at 75-80° C. for 6 hours. The reaction mixture was poured into cold water and extracted twice with toluene, and the extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 13.4 mg of 5-methyl-5-phenylpentanoic acid.

reactant | ethyl 5-methyl-5-phenylpentanoate | 72.6 mmol, 16.0 g | CC(CCCC(=O)OCC)C1=CC=CC=C1 | C14H20O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-methyl-5-phenylpentanoic acid | 13.4 mg | CC(CCCC(=O)O)C1=CC=CC=C1 | C12H16O2
